US06974813B2
A solution of guanidine hydrochloride (3.11 g, 32.6 mmol) in warm anhydrous ethanol (8 mL) under a nitrogen atmosphere was treated in one portion with sodium methoxide (1.76 g, 32.6 mmol). The resulting slurry was concentrated in vacuo. The residue was treated with anhydrous toluene (10 mL) and concentrated to dryness in vacuo (twice). Each time the vacuum was released to a nitrogen atmosphere. The residue was treated in one portion with ethyl 1-(quinolin-5-yl)-5-cyclopropyl-1H-pyrazole-4-carboxylate (1.00 g, 3.26 mmol) in anhydrous ethanol (8 mL). The resulting mixture was concentrated in vacuo (rotatory evaporator, 80° C. water bath). The residue was treated with anhydrous toluene (10 mL) and the resulting mixture was concentrated in vacuo (three times). The resulting solid was triturated with water (85 mL) and filtered. The solid was air-dried to provide 0.880 g (76% yield) of [1-(quinolin-5-yl)-5-cyclopropyl-1H-pyrazole-4-carbonyl]guanidine dihydrate.

reactant | guanidine hydrochloride | 32.6 mmol, 3.11 g | Cl.NC(=N)N
reactant | sodium methoxide | 32.6 mmol, 1.76 g | C[O-].[Na+]
reactant | ethyl 1-(quinolin-5-yl)-5-cyclopropyl-1H-pyrazole-4-carboxylate | 3.26 mmol, 1.00 g | N1=CC=CC2=C(C=CC=C12)N1N=CC(=C1C1CC1)C(=O)OCC | C18H17N3O2
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | [1-(quinolin-5-yl)-5-cyclopropyl-1H-pyrazole-4-carbonyl]guanidine dihydrate | 0.880 g, 76% yield | O.O.N1=CC=CC2=C(C=CC=C12)N1N=CC(=C1C1CC1)C(=O)NC(=N)N | InChI=1S/C17H16N6O.2H2O/c18-17(19)22-16(24)12-9-21-23(15(12)10-6-7-10)14-5-1-4-13-11(14)3-2-8-20-13;;/h1-5,8-10H,6-7H2,(H4,18,19,22,24);2*1H2
